US04496720
2.0 mg (0.004 mmoles) of di-4-nitrophenyl N-(4-toluenesulfonyl)phosphoramidate were added to a solution of 264 mg (2 mmoles) of 5-mercapto-2-methyl-1,3,4-thiadiazole in 5 ml of toluene and 1.06 ml (6.1 mmoles) of hexamethylphosphoric triamide and then while refluxing, 0.50 ml (2.4 mmoles) of hexamethyldisilazane were added. After refluxing for 1.5 hours, the solution was evaporated to dryness and the residue was dissolved in 4 ml of acetonitrile. 0.28 (2.3 mmoles) of benzyl bromide were added to the solution and it was established that the conversion was complete after stirring for 10 minutes. HPLC analysis of the reaction mixture indicated a quantitative yield of 5-benzylthio-2-methyl-1,3,4-thiadiazole.

reactant | 5-mercapto-2-methyl-1,3,4-thiadiazole | 2 mmoles, 264 mg | SC1=NN=C(S1)C | C3H4N2S2
reactant | hexamethylphosphoric triamide | 6.1 mmoles, 1.06 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
reactant | hexamethyldisilazane | 2.4 mmoles, 0.50 ml | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 5-benzylthio-2-methyl-1,3,4-thiadiazole | quantitative yield | C(C1=CC=CC=C1)SC1=NN=C(S1)C | C10H10N2S2
